Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tramadol
 
Attending: ___
 
Chief Complaint:
Lower extremity pain and weakness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presenting with right leg weakness and pain. She has a 
history of chronic pain and weakness after multiple right leg 
skin resections for removal of a "cancerous mole" at age ___. She 
was told she had nerve damage from her procedure. Her symptoms 
have been present for years, she has been evaluated by 
Neurology, had MRI, CT, xrays.

She was last at her baseline level of health at the end of 
___. She was able to walk with the aid of a brace and worked 
in a ___ where she would routinely be able to carry up 
to 75lb boxes. On ___ she woke up and was getting out of bed 
when she had significant right lower extremity pain and weakness 
and collapsed due to inability to support her weight. She was 
evaluated at multiple hospitals including ___, ___ 
___ and most recently ___. At ___, she had an 
MRI of the spine which showed annular bulging at ___ without 
canal/foraminal stenosis, RLE US which showed no DVT, and xrays 
of the right leg, left femur, chest and a KUB which were all 
normal. She was evaluated by neurology who did not find any 
neurological issue other than possible neuropathic pain. She was 
seen by psychiatry who considered anxiety and somatization. 
Denies new symptoms. Denies fever, chills, leg swelling/redness. 


She was discharged from ___ ___ and the presented 
to ___ later that day for further evaluation due to ongoing 
pain and inability to walk. 

The patient notes that she first noted severe pain in her 
bilateral lower extremities about 2 months ago and that the pain 
is worse with walking. The pain is described and burning type 
pain for which she is taking gabapentin currently. She also 
endorses weakness in both legs that keeps her from being able to 
walk. She does endorse lower back pain associated with this but 
denies changes including urinary retention or bowel 
incontinence. She does endorse associated right leg numbness in 
her foot. She also endorses weakness in her right arm with 
intermittent right arm numbness. She has recently had nausea and 
vomiting this week, including multiple episodes of ___ 
emesis after eating that resolved by ___. 

She denies a history of anxiety or depression but notes that she 
does not have a good relationship with her parents. She had a 
falling out with them about 6 months ago and has not talked to 
them since. She notes emotional abuse from them when illicited 
but is not interested in further discussing this. She denies a 
history of physical abuse. She currently lives with her 
boyfriend and their family.

 
Past Medical History:
h/o melanoma
h/o hearing loss L ear
 
Social History:
___
Family History:
No family history of neurologic disorders
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
VS: T:97.8 HR:82 BP:105/59 RR:20 O2: 100RA 
GEN: Alert, lying in bed, no acute distress, obese  
HEENT: Tacky MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, ___  
EXTREM: Warm, ___, no edema  
AAOx3. PERRL. CNs ___ intact. On strength exam, the patient 
is
___ on the LUE. On RUE exam she exhibits ___ strength in the
biceps, triceps, forearm and hand muscles but extinguishes 
effort
within 1 second due to pain. Similar findings on leg exam. Pain
with light touch of the lower extremities causes the patient to
withdraw from pain with ___ strength, yet she displays no effort
when prompted to resist examiner. She is also noted to move all
extremities with ___ strength when lying in bed. She was
witnessed ambulating with a walker with very slow gentle steps.
No foot drop. Her sensory exam is normal, and reflexes are ___
and symmetrical throughout. No cerebellar deficits. Intact
cognition and memory.
Psych: Full range of affect. Does not appear depressed or
anxious.

DISCHARGE PHYSICAL EXAM:
=============================
VS: Tc. 97.6, BP 133/73, HR 71, RR 16, 97% RA 
Gen: NAD, sleeping in bed comfortably. While sleeping, I was 
able
to touch the patient's legs without any withdrawal from pain.
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis or skeletal deformity. The
extremities have normal bulk with no fasciculations. No palpable
synovitis. Back exam reveals that the patient is diffusely
hyperalgesic to very light touch of the skin and withdraws to
pain in attempt to examine the spine. Her spine and joints have
full ROM.
Skin: R thigh has a large well healed scar anteriorly. The
patient visualizes the scar turning blue during the examination,
but this is not noted on my exam.
Full neuro exam: 
AAOx3. PERRL. CNs ___ intact. On strength exam, the patient 
is
___ on the LUE. On RUE exam she exhibits ___ strength in the
biceps, triceps, forearm and hand muscles but extinguishes 
effort
within 1 second due to pain. Similar findings on leg exam. No 
pain with light touch.
Walks with a walker without difficulty. Her sensory exam is 
normal, and reflexes are ___
and symmetrical throughout. No cerebellar deficits. Intact 
cognition and memory.
Psych: Full range of affect. Does not appear depressed or
anxious.

 
Pertinent Results:
LABS ON ADMISSION:
=============
___ 11:34PM BLOOD ___ 
___ Plt ___
___ 11:34PM BLOOD ___ 
___ Im ___ 
___
___ 11:34PM BLOOD Plt ___
___ 11:34PM BLOOD ___ 
___

IMAGING:
=========
___:
IMPRESSION:  
  
No acute intracranial process.  No mass lesion identified 

MRI head ___:
===================
FINDINGS:  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction. The ventricles and sulci are normal 
in caliber and 
configuration. There is no abnormal enhancement after contrast 
administration. The major intracranial flow voids are preserved. 
 The dural venous sinuses are patent.  The paranasal sinuses are 
clear.  The orbits are unremarkable. The mastoid air cells are 
clear. 
  
IMPRESSION: 
  
  
1. Unremarkable MRI brain. 

 
Brief Hospital Course:
___ with history of R thigh melanoma and traumatic L sided 
hearing loss who presents with subjective b/l ___ pain and 
weakness, admitted for inability to ambulate. 

#Complex Regional Pain Syndrome/Neuropathic Pain/Lower extremity 
weakness/Hyperalgesia

Patient presented with bilateral lower extremity pain and 
weakness and inability to walk.  On review of outside records 
patient has undergone similar work at ___, ___, 
and ___ and then came directly from ___ 
___ to ___. Patient underwent comprehensive work up at 
___ including  MRI of the L spine with no signs of 
spinal stenosis or cord compression, ___, and dopplers of the 
lower extremities with no concerning findings. She also 
underwent head CT with no acute findings. 

Upon evaluation at ___ she had CT head that did not show any 
acute intracranial process. At ___ she displayed ___ strength 
while in bed without prompting however when prompted she 
extinguishes effort immediately on examination due to pain. She 
displayed marked hyperalgesia on exam when touched lightly, yet 
the bed sheets over her do not do the same. It was felt that her 
history of peripheral nerve damage from her melanoma procedure 
on the right leg may have explained her hyperalgesia in the RLE 
but does not for pain in her other extremities. It was felt that 
the patient's physical exam was not consistent with any 
neurologic findings that would warrant further workup of central 
or peripheral nerve damage. 

Given patient's complicated social history including emotional 
abuse it was felt that patient most likely has underlying 
conversion disorder or somatization disorder. We consulted 
psychiatry who felt that this could represent conversion if 
there was no neurological explanation. She had an MRI which 
showed no evidence of multiple sclerosis or other pathology. Our 
evaluation did not illicit a neurologic explanation. Physical 
therapy evaluated the patient and recommended discharge to 
rehab. The patient was started on lyrica 75 mg TID for 
neuropathic component of pain and gabapentin discontinued. 
Acetaminophen and ibuprofen were also used. No opioids were 
given for pain and we recommend that no opioids be used for pain 
in the future. Patient was also started on celexa 20mg for 
treatment of pain and mood associated with possible conversion 
disorder. Additionally she was started on ativan 1 mg BID. With 
this, her strength gradually improved to the point where she was 
able to be safely discharged home. Lastly the patient's primary 
care physician was alerted to patient's hospitalization and 
noted that he had arranged outpatient follow up with neurology 
and vascular surgery for the patient as an outpatient.

If felt warranted by outside provider, further neurologic 
referral with consideration of EMG testing could be made though 
this was not felt to be warranted in the inpatient setting given 
the reasons above. 

Ultimately the patient had a combination of complex regional 
pain syndrome, neuropathic pain, and hyperalgesia with improving 
weakness after multiple ___ sessions. The patient was discharged 
home with outpatient ___.

================
TRANSITIONAL ISSUES:
================
- pregabalin 75 mg TID was started this hospitalization
- celexa 20mg was started this hospitalization
- ativan 1 mg BID also started and should be tapered and stopped 
over time
- gabapentin was discontinued
- no opioids should be used for pain management
- f/u outpatient psychiatrist
- f/u with neurology and vascular surgery as planned by 
patient's PCP
- consider EMG testing
- continue physical therapy as an outpatient

# CONTACT: ___ (Boyfriend) no HCP; ___
# CODE STATUS: Full (confirmed)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 900 mg PO BID 

 
Discharge Medications:
1. Pregabalin 75 mg PO TID 
RX *pregabalin [Lyrica] 75 mg 1 capsule(s) by mouth three times 
a day Disp #*90 Capsule Refills:*0
2. Lorazepam 1 mg PO BID 
RX *lorazepam [Ativan] 1 mg 1 mg by mouth every 12 hours Disp 
#*60 Tablet Refills:*0
3. Citalopram 20 mg PO DAILY 
RX *citalopram [Celexa] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
4. Outpatient Physical Therapy
Complex Regional Pain Syndrome
___ 337.2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Complex Regional Pain Disorder
Neuropathic pain
Lower extremity weakness
Hyperalgesia

Secondary: 
Anxiety
Right leg melenoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you here at the ___ 
___. You came to us because you had pain 
and difficulty walking on your right leg. You received a CT scan 
of your head that did not show any bleeding or abnormalities of 
your brain. We also reviewed all of the imaging testing that you 
have had at other hospitals that did not show a structural cause 
for your pain. We did not find a neurological diagnosis for your 
leg weakness and thought that some of your symptoms could be 
explained by emotional or psychiatric causes. We did start a 
medication called lyrica that should help with the type of 
burning pain you are having. We also started a medication called 
celexa which can help with your leg pain as well as weakness. 

Because of your weakness we recommended we had our physical 
therapist evaluate you who recommended rehabilitation for your 
symptoms. It is very important to follow up with your outpatient 
physicians and see your primary care physician after you leave 
the rehab facility.

We wish you the best,

Your ___ care team
 
Followup Instructions:
___